* ==========================================================================
* @part: 74HC00 (14-pin package)
* @family: logic
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* ngspice KiCad multi-device 74xx model
* quad NAND subcircuit

.subckt 74HC00m 1 2 3 4 5 6 7 8 9 10 11 12 13 14
*

.SUBCKT 74HC00  1A 1B 1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0
U1 nand(2) DPWR DGND
+     1A 1B 1Y
+     DLY_HC00 IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC00 ugate (tplhTY=9ns tplhMX=18ns tphlTY=9ns tphlMX=18ns)
.ENDS  74HC00
*

Xnand1 1 2 3 74HC00
Xnand2 4 5 6 74HC00
Xnand3 9 10 8 74HC00
Xnand4 12 13 11 74HC00
.ends



