* ==========================================================================
* @part: 74HC02 (14-pin package)
* @family: logic
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* ngspice KiCad multi-device 74xx model
* quad NOR subcircuit

.subckt 74HC02m 1 2 3 4 5 6 7 8 9 10 11 12 13 14
*
* ----------------------------------------------------------- 74HC00 ------
*  Quad 2-Input Nor Gates
*
.SUBCKT 74HC02  1A 1B 1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0
U1 nor(2) DPWR DGND
+     1A 1B 1Y
+     DLY_HC02 IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC02 ugate (tplhTY=9ns tplhMX=18ns tphlTY=9ns tphlMX=18ns)
.ENDS  74HC02
*
Xnand1 2 2 1 74HC02
Xnand2 5 6 4 74HC02
Xnand3 8 9 10 74HC02
Xnand4 11 12 13 74HC02
.ends



