* ==========================================================================
* @part: 74HC32 (14-pin package)
* @family: logic
* @source: ngspice
* @url: https://ngspice.sourceforge.io/modelparams.html
* @retrieved: 2026-09-24
* @licence: none stated
* @added-by: nav
* ==========================================================================
* ngspice KiCad multi-device 74xx model
* quad OR subcircuit

.subckt 74HC32m 1 2 3 4 5 6 7 8 9 10 11 12 13 14
*
.SUBCKT 74HC32  1A 1B 1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0
U1 or(2) DPWR DGND
+     1A 1B 1Y
+     DLY_HC32 IO_HC MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC32 ugate (tplhTY=10ns tplhMX=20ns tphlTY=10ns tphlMX=20ns)
.ENDS  74HC32
*
Xor1 1 2 3 74HC32
Xor2 4 5 6 74HC32
Xor3 9 10 8 74HC32
Xor4 12 13 11 74HC32
.ends



